### PR TITLE
feat(SetTheory/Ordinal/Arithmetic): order isomorphism between omega and the natural numbers

### PR DESCRIPTION
**Pull request by YnirPaz**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
 
+/-- The order isomorphism between ℕ and the first ω ordinals. -/
+def relIso_nat_omega : ℕ ≃o Iio ω where
+  toFun n := ⟨n, nat_lt_omega0 n⟩
+  invFun n := Classical.choose (lt_omega0.1 n.2)
+  left_inv n := by
+    have h : ∃ m : ℕ, n = (m : Ordinal) := ⟨n, rfl⟩
+    exact (Nat.cast_inj.1 (Classical.choose_spec h)).symm
+  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega0.1 n.2)).symm
+  map_rel_iff' := fun {n m} ↦ by simp only [coe_fn_mk, Subtype.mk_le_mk, Nat.cast_le]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2454]:
```suggestion
  map_rel_iff' := by simp
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+/-- The order isomorphism between ℕ and the first ω ordinals. -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2446]:
```suggestion
/-- The order isomorphism between ℕ and the first ω ordinals. -/
@[simps! apply]
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+  toFun n := ⟨n, nat_lt_omega0 n⟩
+  invFun n := Classical.choose (lt_omega0.1 n.2)
+  left_inv n := by
+    have h : ∃ m : ℕ, n = (m : Ordinal) := ⟨n, rfl⟩
+    exact (Nat.cast_inj.1 (Classical.choose_spec h)).symm
+  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega0.1 n.2)).symm
+  map_rel_iff' := fun {n m} ↦ by simp only [coe_fn_mk, Subtype.mk_le_mk, Nat.cast_le]
+
+theorem relIso_nat_omega.symm_eq {o : Ordinal} (h : o < ω) :
+    relIso_nat_omega.symm ⟨o, h⟩ = o := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2457]:
```suggestion
theorem relIso_nat_omega_coe_symm_apply (o : Iio ω) : relIso_nat_omega.symm o = o.1 := by
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 4]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+  exact congrArg Nat.cast <| relIso_nat_omega.symm_apply_apply n
+
+theorem strictMono_of_succ_lt_omega {o : Ordinal} (f : Iio ω → Iio o)
+    (hf : ∀ i, f i < f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) {i j} (h : i < j) : f i < f j := by
+  have mono := strictMono_nat_of_lt_succ fun n ↦ hf ⟨n, nat_lt_omega0 n⟩
+  have := mono <| (OrderIso.lt_iff_lt relIso_nat_omega.symm).mpr h
+  change f ⟨relIso_nat_omega.symm ⟨i.1, i.2⟩, _⟩ <
+    f ⟨relIso_nat_omega.symm ⟨j.1, j.2⟩, _⟩ at this
+  simp_rw [relIso_nat_omega.symm_eq] at this
+  exact this
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2468]:
```suggestion
theorem strictMono_of_succ_lt_omega {α : Type*} [Preorder α] (f : Iio ω → α)
    (hf : ∀ i, f i < f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) : StrictMono f := by
  have mono := strictMono_nat_of_lt_succ fun n ↦ hf ⟨n, nat_lt_omega0 n⟩
  convert mono.comp relIso_nat_omega.symm.strictMono
  ext
  simp
```
You could also add a version proving `Monotone f`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 5]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+/-- The order isomorphism between ℕ and the first ω ordinals. -/
+def relIso_nat_omega : ℕ ≃o Iio ω where
```
[the remark this answers is not in the document]
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2447]: Old habits die hard.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 4 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: That's just `↑.monotone` though.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: The assumption would be `f x ≤ f (succ x)` instead, so not quite.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 6]
```diff
@@ -2443,6 +2443,30 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+def relIso_nat_omega0 : ℕ ≃o Iio ω where
+  toFun n := ⟨n, nat_lt_omega0 n⟩
+  invFun n := Classical.choose (lt_omega0.1 n.2)
+  left_inv n := by
+    have h : ∃ m : ℕ, n = (m : Ordinal) := ⟨n, rfl⟩
+    exact (Nat.cast_inj.1 (Classical.choose_spec h)).symm
+  right_inv n := Subtype.eq (Classical.choose_spec (lt_omega0.1 n.2)).symm
+  map_rel_iff' := by simp
+
+theorem relIso_nat_omega0_coe_symm_apply (o : Iio ω) : relIso_nat_omega0.symm o = o.1 := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2457]: This should be a `simp` lemma (and then the last two lines of `relIso_nat_omega0_coe_symm_apply` can be replaced by simply `simp`).

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]:
```lean4
theorem monotone_of_succ_lt_omega0 {α : Type*} [Preorder α] (f : Iio ω → α)
    (hf : ∀ i, f i ≤ f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) : Monotone f := sorry
```

Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean]: Oh I misunderstood.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 6 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2458]: Did you mean the last lines of the monotone theorem(s)? Either way `simp` doesn't `ext` here so it's still needed.

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2458]: Yeah, my bad.

**Review by vihdzp — APPROVED** [review]

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 7]
```diff
@@ -2443,6 +2443,48 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+theorem coe_succ_Iio {o : Ordinal} (h : o.IsLimit) {α : Iio o} : (succ α).1 = α.1 + 1 := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2446]:
```suggestion
theorem coe_succ_Iio {o : Ordinal} (h : o.IsLimit) (x : Iio o) : (succ x).1 = succ x.1 := by
```
Can this theorem be generalized to `SuccOrder` by taking a `IsSuccLimit` hypothesis instead?

Comment (YnirPaz) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2446]: I'll generalize this but I don't think `x` should be explicit, so far I only use this theorem in `rw`. I didn't want `h` to be explicit either but lean could never insert it.

File: Mathlib/Order/SuccPred/Limit.lean [hunk 8]
```diff
@@ -252,6 +252,17 @@ theorem isSuccPrelimit_iff_succ_lt : IsSuccPrelimit b ↔ ∀ a < b, succ a < b
 @[deprecated isSuccPrelimit_iff_succ_lt (since := "2024-09-05")]
 alias isSuccLimit_iff_succ_lt := isSuccPrelimit_iff_succ_lt
 
+theorem coe_succ_Iio {a : α} (h : IsSuccPrelimit a)
```
Comment (vihdzp) [inline Mathlib/Order/SuccPred/Limit.lean:255]: I think it's fine for `x` to be explicit. It should give you strictly more flexibility in `rw` or `have` without making things worse in the cases where having `x` implicit already works.

File: Mathlib/Order/SuccPred/Limit.lean [hunk 9]
```diff
@@ -252,6 +252,17 @@ theorem isSuccPrelimit_iff_succ_lt : IsSuccPrelimit b ↔ ∀ a < b, succ a < b
...
+    (x : Iio a) : (succ x).1 = succ x.1 := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Limit.lean:256]: It would be more readable as
```suggestion
theorem coe_succ_Iio {a : α} (h : IsSuccPrelimit a) (x : Iio a) : (succ x).1 = succ x.1 := by
```
(preferred) or
```suggestion
theorem coe_succ_Iio {a : α} (h : IsSuccPrelimit a) (x : Iio a) :
    (succ x).1 = succ x.1 := by
```
(okay, but unnecessarily space-taking)

Same below

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 10]
```diff
@@ -2443,6 +2443,39 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+  simp_rw [hn]
+  exact congrArg Nat.cast <| relIso_nat_omega0.symm_apply_apply n
+
+theorem strictMono_of_succ_lt_omega0 {α : Type*} [Preorder α] (f : Iio ω → α)
+    (hf : ∀ i, f i < f (succ i)) : StrictMono f := by
+  have mono := strictMono_nat_of_lt_succ fun n ↦
+    (succ_Iio isLimit_omega0.isSuccPrelimit _) ▸ hf ⟨n, nat_lt_omega0 n⟩
+  convert mono.comp relIso_nat_omega0.symm.strictMono
+  ext
+  simp
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2470]: Is this not a direct special case of `strictMono_of_lt_succ`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 11]
```diff
@@ -2443,6 +2443,39 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
     exact sup_eq_zero_iff.2 fun n => zero_mul (n : Ordinal)
   · exact (mul_isNormal ho).apply_omega0
 
+/-- The order isomorphism between ℕ and the first ω ordinals. -/
+@[simps! apply]
+def relIso_nat_omega0 : ℕ ≃o Iio ω where
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2448]:
```suggestion
def natOrderIsoOmega0 : ℕ ≃o Iio ω where
```
or something like that

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 12]
```diff
@@ -2443,6 +2443,39 @@ theorem sup_mul_nat (o : Ordinal) : (sup fun n : ℕ => o * n) = o * ω := by
...
+theorem strictMono_of_succ_lt_omega0 {α : Type*} [Preorder α] (f : Iio ω → α)
+    (hf : ∀ i, f i < f (succ i)) : StrictMono f := by
+  have mono := strictMono_nat_of_lt_succ fun n ↦
+    (succ_Iio isLimit_omega0.isSuccPrelimit _) ▸ hf ⟨n, nat_lt_omega0 n⟩
+  convert mono.comp relIso_nat_omega0.symm.strictMono
+  ext
+  simp
+
+theorem monotone_of_succ_le_omega0 {α : Type*} [Preorder α] (f : Iio ω → α)
+    (hf : ∀ i, f i ≤ f ⟨succ i, isLimit_omega0.succ_lt i.2⟩) : Monotone f := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2473]: Same here with `monotone_of_le_succ`

**Review by YaelDillies — COMMENTED** [review]
Sorry for the long delay! Here are a few comments
